data/mechanisms/records/IMS8-EQ8.16b.json
{"mechanism_id": "IMS8-EQ8.16b", "species": [{"species_id": "beta_hydroxy_ketone_molecular_ion_O_ionized", "mapped_smiles": "[CH3:3][C:1](=[O+:2])[CH2:4][CH:5]([OH:6])[CH2:7][1H:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "enol_radical_cation_O_localized", "mapped_smiles": "[CH3:3][C:1](=[CH2:4])[O+:2][1H:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "vinyl_alcohol_enol_neutral", "mapped_smiles": "[OH:6][CH:5]=[CH2:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["beta_hydroxy_ketone_molecular_ion_O_ionized"]}, {"state_id": "state_products", "species_ids": ["enol_radical_cation_O_localized", "vinyl_alcohol_enol_neutral"]}], "steps": [{"step_id": "step_rH_gamma_CH_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [2, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH_gammaCH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_gamma_CH_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 149, "equation": "8.16", "figure": null, "panel": null, "section": "8.2 Product stability (Neutral-product stability)"}, "confidence": 0.7, "curator_note": "Eq 8.16, p.149. GENERIC scheme (R undefined; no m/z or % printed). Same beta-hydroxy-ketone molecular ion and same enol product ion as branch (a); the book draws '+.' on the carbonyl O and on the enol product O ('H-O+.'), so charge and odd electron stay localized on that oxygen (conventions B, C). This record is branch (b): the competing CLASSIC McLafferty transfer of a gamma C-H (a hydrogen of the terminal methyl, map 8 on C7) rather than the hydroxyl H. It yields the ENOL neutral vinyl alcohol (CH2=CHOH, dHf -1.3 eV printed under it, the 'or' product), which is less stable than the keto tautomer formed in branch (a); the text notes the keto path (branch a) is favored. Six-membered TS [O2=C1-C4-C5-C7-H8] delivers the gamma C-H to the carbonyl O, the Calpha-Cbeta bond (C4-C5) cleaves, and C5=C7 forms (giving the enol vinyl alcohol on the neutral, the carbinol OH being retained). ARC COUNT: the book draws 0 electron arc(s) -- only the 'rH' label and the six-membered TS geometry are printed; NO curved arrows/fishhooks appear. The three encoded moves are the complete balanced flow implied by 'rH', written as a concerted 6-electron retro-ene: move <1> C7-H8 sigma -> forming O2-H8 bond; move <2> C1=O2 pi -> forming enol C1=C4 pi; move <3> C4-C5 sigma -> forming C5=C7 pi. In this O-localized resonance form the +. radical is a spectator on O2 (no per-atom radical change), matching the drawn '+.' on the enol oxygen; a stepwise fishhook drawing with a migrating radical is an alternative. Instantiated R = CH3 (4-hydroxypentan-2-one, M+. = C5H10O2, m/z 102.0675); enol ion CH3-C(O+.H)=CH2 (C3H6O+., computed m/z 58.0413) -- curator instantiation value, not a book number."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 102.0675, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_enol_ion", "species_id": "enol_radical_cation_O_localized", "step_id": "step_rH_gamma_CH_rearrangement", "observed_mz": 58.0413, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
